Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
ulcerative colitis
 
Major Surgical or Invasive Procedure:
___ ileostomy takedown
 
History of Present Illness:
A ___ man who previously underwent
abdominal colectomy, laparoscopic proctectomy, and diverting
loop ileostomy, J pouch on ___.  The pouch study was normal. 
 Risks
and benefits included, but not limited to, infection,
bleeding, leak, need for more procedures were discussed.  The
patient understood and agreed.
 
Past Medical History:
PMH:
Ulcerative Colitis

PSH:
Lap colectomy w/ end ileostomy (___)
 
Social History:
___
Family History:
M: CAD, HLD
Maternal GM: RA
DM in father's side of family

 
Physical Exam:
NAD
CV: RRR
Resp: nl breathing effort
GI: inc c/d/i, ND, NT, soft
 
Brief Hospital Course:
Brief Hospital Course Template:  
Mr ___ presented to ___ holding at ___ on ___ for 
a ileostomy takedown. He tolerated the procedure well without 
complications (Please see operative note for further details). 
After a brief and uneventful stay in the PACU, the patient was 
transferred to the floor for further post-operative management.  

On ___, the patient was discharged to home. At discharge, 
he was tolerating a regular diet, passing flatus, stooling, 
voiding, and ambulating independently. He will follow-up in the 
clinic in ___ weeks. This information was communicated to the 
patient directly prior to discharge.  
Include in Brief Hospital Course for Every Patient and check of 
boxes that apply:  
Post-Surgical Complications During Inpatient Admission:  
[x] None  
Social Issues Causing a Delay in Discharge:  
[x] No social factors contributing in delay of discharge.  

 
Medications on Admission:
None
 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H:PRN pain 
do not take more than 3000mg of Tylenol or drink alcohol  
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*50 Tablet Refills:*0
2. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
do not drink alcohol or drive a car while taking 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0
3. Tamsulosin 0.4 mg PO QHS 
please take for 5 more days at home 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth at bedtime Disp #*5 
Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ileostomy Takedown

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital after an ileostomy takedown. 
You have recovered from this procedure well and you are now 
ready to return home. You have tolerated a regular diet, passing 
 
gas and your pain is controlled with pain medications by mouth. 
You may return home to finish your recovery.  
 
Please monitor your bowel function closely. You may or may not 
have had a bowel movement prior to your discharge which is 
acceptable, however it is important that you have a bowel 
movement in the next ___ days. After anesthesia it is not 
uncommon for patients to have some decrease in bowel function 
but your should not have prolonged constipation. Some loose 
stool and passing of small amounts of dark, old appearing blood 
are expected however, if you notice that you are passing bright 
red blood with bowel your please seek medical attention. If you 
are passing loose stool without improvement please call the 
office or go to the emergency room if the symptoms are severe. 
If you are taking narcotic pain medications there is a risk that 
you will have some constipation. Please take an over the counter 
stool softener such as Colace, and if the symptoms does not 
improve call the office. It is also not uncommon after an 
ileostomy takedown to have frequent loose stools until you are 
taking more regular food however this should improve.  
The muscles of the sphincters have not been used in quite some 
time and you may experience urgency or small amounts of 
incontinence however this should improve. If you do not show 
improvement in these symptoms within ___ days please call the 
office for advice. Occasionally, patients will need to take a 
medication to slow their bowel movements as their bodies adjust 
to the new normal without an ileostomy, you should consult with 
our office for advice. If you have any of the following symptoms 
please call the office for advice or go to the emergency room if 
 
severe: increasing abdominal distension, increasing abdominal 
pain, nausea, vomiting, inability to tolerate food or liquids, 
prolonged loose stool, or constipation.  
 
You have a small wound where the old ileostomy once was. This 
should be covered with a dry sterile gauze dressing. The wound 
no longer requires packing with gauze packing strip. Please  
monitor the incision for signs and symptoms of infection 
including: increasing redness at the incision, opening of the 
incision, increased pain at the incision line, draining of 
white/green/yellow/foul smelling drainage, or if you develop a 
fever. Please call the office if you develop these symptoms or 
go to the emergency room if the symptoms are severe. You may  
shower, let the warm water run over the wound line and pat the 
area dry with a towel, do not rub. Please apply a new gauze 
dressing after showering.  
 
No heavy lifting for at least 6 weeks after surgery unless 
instructed otherwise by your surgical team. You may gradually 
increase your activity as tolerated but clear heavy exercise 
with your surgical team.
 
You will be prescribed a small amount of the pain medication 
oxycodone. Please take this medication exactly as prescribed. 
You may take Tylenol as recommended for pain. Please do not take 
more than 3000mg of Tylenol daily. Do not drink alcohol while 
taking narcotic pain medication or Tylenol. Please do not drive 
a car while taking narcotic pain medication.  
 
Thank you for allowing us to participate in your care! Our hope 
is that you will have a quick return to your life and usual 
activities. Good luck! 
 

 
Followup Instructions:
___